US08420695B2
Step 4. [2,6-Difluoro-4-(1-hydroxy-1-methylethyl)phenyl]acetaldehyde
A solution of 2-{3,5-difluoro-4-[2-methoxyvinyl]phenyl}propan-2-ol (5.0 g, 22 mmol) in acetone (25 mL) was added dropwise to 4 M aqueous hydrochloric acid (25 mL, 100 mmol) with ice-water cooling, keeping the temperature below 10° C. Then the mixture was stirred at room temperature for six hours. The resulting mixture was extracted with ethyl acetate (2×) and the combined organic phases were washed with saturated aqueous sodium bicarbonate and brine. The organic layer was then dried and concentrated in vacuo to afford the title compound.

reactant | 2-{3,5-difluoro-4-[2-methoxyvinyl]phenyl}propan-2-ol | 22 mmol, 5.0 g | FC=1C=C(C=C(C1C=COC)F)C(C)(C)O | C12H14F2O2
reactant | hydrochloric acid | 100 mmol, 4 M, 25 mL | Cl | ClH
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | [2,6-Difluoro-4-(1-hydroxy-1-methylethyl)phenyl]acetaldehyde | FC1=C(C(=CC(=C1)C(C)(C)O)F)CC=O | C11H12F2O2
